US09193721B2
Step K: 1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanamine
1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanone (0.12 g, 0.42 mmol) and ammonium acetate (0.32 g, 4.2 mmol) were stirred in methanol (4.6 mL) and heated to 65° C. for 1 hour. Sodium cyanoborohydride (78 mg, 1.3 mmol) was added and the mixture was heated at 65° C. for 16 hours. The mixture was evaporated and the resultant residue was purified on RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (51 mg, 42%). LCMS calculated for C15H14ClFN3 (M+H)+: m/z=290.1. found: 290.0. 1H NMR (300 MHz, DMSO-d6): δ 7.63 (m, 2H), 7.41 (m, 3H), 7.35 (m, 2H), 3.60 (m, 1H), 1.18 (m, 3H).

reactant | 1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanone | 0.42 mmol, 0.12 g | ClC=1C=2N(C(=C(C1)C(C)=O)C1=CC(=CC=C1)F)C=NC2 | C15H10ClFN2O
reactant | ammonium acetate | 4.2 mmol, 0.32 g | C(C)(=O)[O-].[NH4+]
reactant | Sodium cyanoborohydride | 1.3 mmol, 78 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4.6 mL | CO | CH4O
product | 1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanamine | 51 mg, 42% | ClC=1C=2N(C(=C(C1)C(C)N)C1=CC(=CC=C1)F)C=NC2 | C15H13ClFN3
